US05328911
2-n-Butyl-1-{(5'-chloro-2'-cyanobiphenyl-4-yl)methyl}benzimidazole
522 g of 2-n-butylbenzimidazole was dissolved in 10 ml of dimethylformamide and dropwise added to 130 g of sodium hydride. The mixture was stirred at room temperature for 30 min, and 920 mg of 2-(4-bromomethylphenyl)-4-chlorobenzonitrile dissolved in 10 ml of dimethylformamide was dropwise added thereto. The mixture was stirred at room temperature for 10 min, and the reaction mixture was filtered. The filtrate was concentrated and water and ethyl acetate were added to the residue. The organic phase was separated, dried over anhydrous magnesium sulfate and then concentrated. The residue was purified by column chromatography (chloroform:ethanol=98:2) (yield: 1.12 g) .

reactant | 2-n-butylbenzimidazole | 522 g | C(CCC)C=1NC2=C(N1)C=CC=C2 | C11H14N2
reactant | sodium hydride | 130 g | [H-].[Na+]
reactant | 2-(4-bromomethylphenyl)-4-chlorobenzonitrile | 920 mg | BrCC1=CC=C(C=C1)C1=C(C#N)C=CC(=C1)Cl | C14H9BrClN
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 2-n-Butyl-1-{(5'-chloro-2'-cyanobiphenyl-4-yl)methyl}benzimidazole | C(CCC)C1=NC2=C(N1CC1=CC=C(C=C1)C1=C(C=CC(=C1)Cl)C#N)C=CC=C2 | C25H22ClN3
